US03971772
e. 2-(Tetrahydropyran-2-yloxy)-1-diazoethane
A solution of 41.8 g of N-nitroso-N-[2-(tetrahydropyran-2-yloxy)ethyl]urea in 200 ml of ether and 100 ml of pentane is added to 450 ml of 1N sodium hydroxide solution at 1°-4°C over a 25 minute period. The solution is stirred for an additional 30 minutes and the layers are separated. The organic layer is dried over sodium hydroxide pellets at 0°C for 5 minutes, and then filtered.

reactant | N-nitroso-N-[2-(tetrahydropyran-2-yloxy)ethyl]urea | 41.8 g | N(=O)N(C(=O)N)CCOC1OCCCC1 | C8H15N3O4
reactant | sodium hydroxide | 1N, 450 ml | [OH-].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | pentane | 100 ml | CCCCC | C5H12
product | 2-(Tetrahydropyran-2-yloxy)-1-diazoethane | O1C(CCCC1)OCC=[N+]=[N-] | C7H12N2O2
